US07678795B2
3-(4-Methyl-2-phenyl-thiazol-5-yl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine
light brown solid. MS (ESI): 335.1 (M+). Prepared from cyclooctane-1,2-dione, [2-(4-Methyl-2-phenyl-thiazol-5-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cyclooctane-1,2-dione | C1(C(CCCCCC1)=O)=O | C8H12O2
reactant | [2-(4-Methyl-2-phenyl-thiazol-5-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(N=C(S1)C1=CC=CC=C1)C | C14H16NO4PS
reactant | hydrazine monohydrate | O.NN
product | 3-(4-Methyl-2-phenyl-thiazol-5-yl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine | CC=1N=C(SC1C1=CC2=C(N=N1)CCCCCC2)C2=CC=CC=C2 | C20H21N3S
